US07786132B2
(ii) 1-{2-[5-Bromo-4-(3-bromo-5-chlorothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione
A 10% (w/v) solution of 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione in MeOH (4.3 mL, 2.5 mmol) was added to a 10 mL microwave vessel. The MeOH was evaporated with a stream of N2, to leave an oily solid which was dissolved in 0.58 mL (3.3 mmol) of N,N-diisopropylethylamine and 5 mL of iPrOH, to which was added 0.65 g (1.7 mmol) of 5-bromo-4-(3-bromo-5-chlorothiophen-2-yl)-2-chloropyrimidine. The reaction mixture was heated in a microwave to 170° C. for 20 min then concentrated in vacuo and purified by flash chromatography eluting with a linear gradient of 60% EtOAc in hexane to neat EtOAc to deliver the title compound. MS (M+H)+ 524.

reactant | 1-(2-aminoethyl)-5,5-dimethylimidazolidine-2,4-dione | NCCN1C(NC(C1(C)C)=O)=O | C7H13N3O2
reactant | MeOH | 2.5 mmol, 4.3 mL | CO | CH4O
reactant | N,N-diisopropylethylamine | 3.3 mmol, 0.58 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 5-bromo-4-(3-bromo-5-chlorothiophen-2-yl)-2-chloropyrimidine | 1.7 mmol, 0.65 g | BrC=1C(=NC(=NC1)Cl)C=1SC(=CC1Br)Cl | C8H2Br2Cl2N2S
solvent | iPrOH | 5 mL | CC(C)O | C3H8O
product | 1-{2-[5-Bromo-4-(3-bromo-5-chlorothiophen-2-yl)pyrimidin-2-ylamino]ethyl}-5,5-dimethylimidazolidine-2,4-dione | BrC=1C(=NC(=NC1)NCCN1C(NC(C1(C)C)=O)=O)C=1SC(=CC1Br)Cl | C15H14Br2ClN5O2S
